US06884607B2
To 50 ml of 50 mM monopotassium phosphate-dipotassium phosphate buffer (pH 7.0) containing 5% of 2-propanol were added 0.1 mmol of NAD+ and 6 g of the washed cells described above. To this mixture was added 50 ml of decane containing 70 mg (0.31 mmol) of isopropyl 4-bromo-3-oxobutanoate, and the mixture was stirred at room temperature for a night and day. Celite was then put into the reaction solution, and stirred for a while and filtered off to separate the resultant solution. The aqueous layer was further extracted three times with ethyl acetate, and combined organic layers were concentrated to give 50 mg of isopropyl 4-bromo-3-hydroxybutanoate.

reactant | monopotassium phosphate dipotassium phosphate | 50 mM, 50 ml, pH 7.0 | P(=O)([O-])(O)O.[K+].P(=O)([O-])([O-])O.[K+].[K+]
reactant | NAD+ | 0.1 mmol | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N
reactant | decane | 0.31 mmol, 50 ml, 70 mg | CCCCCCCCCC | C10H22
reactant | isopropyl 4-bromo-3-oxobutanoate | BrCC(CC(=O)OC(C)C)=O | C7H11BrO3
solvent | 2-propanol | CC(C)O | C3H8O
product | isopropyl 4-bromo-3-hydroxybutanoate | 50 mg | BrCC(CC(=O)OC(C)C)O | C7H13BrO3
